US07741327B2
To a solution of methyl magnesium bromide (3 M, 14 mL, 39.94 mmol) cooled to 0° C. was added tetrahydrofuran (10 mL) and as solution of 1-(4-hydroxy-phenyl)-propan-2-one (1 g, 6.66 mmol) in tetrahydrofuran (30 mL). The resulting mixture was then warmed to room temperature and then stirred for 2 h. At this time, the reaction was partioned between ethyl acetate and water. The water layer was made acidic with 1N aqueous hydrochloric acid (pH=1). The organic phase was separated and concentrated in vacuo. The residue was dissolved in a small volume of tetrahydrofuran and the mixture was treated with an excess of hexanes. This resulted in the precipitation of the product 4-(2-hydroxy-2-methyl-propyl)-phenol (0.85 g, 77%) as a white solid.

reactant | methyl magnesium bromide | 39.94 mmol, 3 M, 14 mL | C[Mg]Br
reactant | 1-(4-hydroxy-phenyl)-propan-2-one | 6.66 mmol, 1 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N, pH=1 | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(2-hydroxy-2-methyl-propyl)-phenol | 0.85 g, 77% | OC(CC1=CC=C(C=C1)O)(C)C | C10H14O2
